US09062048B2
Step F: Benzyl (7-(trifluoromethyl)isoquinolin-1-yl)carbamate
A solution of 7-(trifluoromethyl)isoquinolin-1-amine (410 mg, 1.9 mmol), from above step E, and benzyl chloroformate (0.33 mL, 2.3 mmol) in DCM was treated with N-methylmorpholine (0.23 mL, 2.1 mmol) and stirred at room temperature for 18 h. Reaction mixture was diluted with DCM and washed with water and dried over Na2SO4. DCM was removed under vacuum and the residue was purified by silica column chromatography to give the title compound.

reactant | 7-(trifluoromethyl)isoquinolin-1-amine | 1.9 mmol, 410 mg | FC(C1=CC=C2C=CN=C(C2=C1)N)(F)F | C10H7F3N2
reactant | benzyl chloroformate | 2.3 mmol, 0.33 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | N-methylmorpholine | 2.1 mmol, 0.23 mL | CN1CCOCC1 | C5H11NO
solvent | DCM | C(Cl)Cl | CH2Cl2
product | Benzyl (7-(trifluoromethyl)isoquinolin-1-yl)carbamate | FC(C1=CC=C2C=CN=C(C2=C1)NC(OCC1=CC=CC=C1)=O)(F)F | C18H13F3N2O2
